US07645789B2
To a solution of 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclo-propanecarboxamide (851 mg, 2.26 mmol) in acetic acid (60 mL) was added NaBH3CN (309 mg, 4.91 mmol) at 0° C. The reaction mixture was stirred for 5 min at room temperature after which no starting material could be detected by LCMS. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel (5-40% ethyl acetate/hexanes) to give 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butylindolin-5-yl)cyclopropanecarboxamide (760 mg, 89%).

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclo-propanecarboxamide | 2.26 mmol, 851 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(C)(C)C | C23H24N2O3
reactant | NaBH3CN | 4.91 mmol, 309 mg | [BH3-]C#N.[Na+]
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butylindolin-5-yl)cyclopropanecarboxamide | 760 mg, 89% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1CC(NC1=CC2)C(C)(C)C | C23H26N2O3
